US07842696B2
HOBt (21.5 mg, 0.16 mmol) and DIPEA (66 mg, 0.51 mmol) were added to a stirred solution of 5-phenyl-isoxazole-3-carboxylic acid (24 mg, 0.13 mmol) in DMF (1.0 mL). The mixture was then cooled to 10° C. and EDCI.HCl (30.5 mg, 0.16 mmol) followed by 2-amino-1-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-ethanone hydrochloride (50 mg, 0.13 mmol) were added. The reaction mixture was then stirred at room temperature overnight. Water was added, and the resulting precipitate was isolated by filtration under reduced pressure and dried to afford 5-phenyl-isoxazole-3-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide as a solid in 53.8% yield. LC-MS purity: 92.97%, 1H-NMR (DMSO): δ 8.7 (t, 1H), 8.0 (m, 2H), 7.58 (m, 4H), 7.41 (s, 1H), 7.0 (m, 2H), 4.2 (m, 2H), 3.78 (s, 3H), 3.5 (m, 6H), 3.2 (m, 2H).

reactant | HOBt | 0.16 mmol, 21.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 66 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-phenyl-isoxazole-3-carboxylic acid | 0.13 mmol, 24 mg | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)O | C10H7NO3
reactant | EDCI.HCl | 0.16 mmol, 30.5 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-1-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-ethanone hydrochloride | 0.13 mmol, 50 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)OC)Br)=O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-phenyl-isoxazole-3-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 53.8% yield | BrC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=NOC(=C2)C2=CC=CC=C2)=O)C=C(C=C1)OC | C24H23BrN4O5
